US08097628B2
(f) 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (25.37 g) and activated manganese dioxide (120 g) were stirred in DCM (500 ml) at room temperature for 2 h. The mixture was filtered with suction and the solids were washed with DCM (2×100 ml). The combined filtrate plus washings were evaporated under reduced pressure to give a brown foam; this was purified by column chromatography on silica (eluting with 0%-100% EtOAc in petroleum ether (40-60°)). Appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a light tan solid (17.40 g, 69%).

reactant | 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 25.37 g | CC1(OCC(CO1)N1C2=C(NCC1=O)C=CC(=N2)OC)C | C14H19N3O4
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 120 g | [O-2].[O-2].[Mn+4]
product | 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 17.40 g, 69% | CC1(OCC(CO1)N1C2=C(N=CC1=O)C=CC(=N2)OC)C | C14H17N3O4
